US05348727
To a solution of 1-[(methanesulfonyl)-oxy]-3,6,9-trioxadecane (11.6 g, 47.9 mmol) in dry DMF (145 ml) was added 3-iodophenol (10.6 g, 48.2 mmol) and potassium carbonate (6.6 g, 47.8 mmol). The reaction was immersed in an oil bath which was warmed to 68° C. over a period of 0.5 hr. The reaction was stirred at this temperature under an N2 atmosphere for 16 hrs and then at 82° C. for an additional 2 hrs. At the end of this period, the reaction was cooled, diluted with DMF, filtered through a pad of celite and evaporated in vacuo. The resulting residue was taken up into ethyl acetate (500 ml), washed with water (200 ml), 1 N aqueous sodium hydroxide (200 ml) and brine (200 ml), dried (Na2SO4), filtered and evaporated in vacuo to provide a light brown oil. Flash column chromatography (silica, 1:3 to 1:2; EtOAc:hexane) provided 1-(3-iodophenoxy)-3,6,9-trioxadecane as a light yellow oil (10.8 g, 37.1%). Title Compound: 1H (300 MHz) and 13C (75 MHz) NMR spectra were consistent with the desired product. Calculated for C13H10O4I:C,42.52; H, 5.49; I, 34.56. Found: C, 42.50, H, 5.13; I, 34.78.

reactant | 1-[(methanesulfonyl)-oxy]-3,6,9-trioxadecane | 47.9 mmol, 11.6 g | CS(=O)(=O)OCCOCCOCCOC | C8H18O6S
reactant | 3-iodophenol | 48.2 mmol, 10.6 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | potassium carbonate | 47.8 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 145 ml | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | 1-(3-iodophenoxy)-3,6,9-trioxadecane | 10.8 g, 37.1% | IC=1C=C(OCCOCCOCCOC)C=CC1 | C13H19IO4
